US05599813
Etyl 2-(3,5-dichlorophenylaminocarbonyl)acetate
In 200 ml of dichloromethane were dissolved 5.0 g of monoethyl malonate and 6.12 g of 3,5-dichloroaniline. Under cooling with ice, to the solution was added 8.57 g of N,N'-dicyclohexylcarbodiimide, followed by stirring at room temperature for 5 hours. Insoluble materials was removed by filtration. The filtrate was diluted with ethyl acetate and washed with 1N hydrochloric acid and dried over anhydrous magnesium sulfate. The residue was purified by silica gel column chromatography using 250 g of silica gel and using chloroform-acetone (20:1 by volume) as an eluent to obtain 6.57 g of the oily titled compound.

reactant | monoethyl malonate | 5.0 g | C(CC(=O)[O-])(=O)OCC
reactant | 3,5-dichloroaniline | 6.12 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | N,N'-dicyclohexylcarbodiimide | 8.57 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Etyl 2-(3,5-dichlorophenylaminocarbonyl)acetate | 6.57 g | ClC=1C=C(C=C(C1)Cl)NC(=O)CC(=O)OCC | C11H11Cl2NO3
